US04342777
(α,α-Dimethylbenzyl)-3,4-methylenedioxy-6-methoxybenzene was prepared as follows: A mixture of sesamol (44 g), α,α-dimethylbenzyl alcohol (44 g), oxalic acid (3 g), acetic acid (100 ml) and water (10 ml) was refluxed for 2.5 hours, diluted with water and extracted with chloroform. Distillation of the chloroform extract gave an oil, b.p. 160°-163° at 0.5 mm Hg (60 g) which crystallized from aqueous methanol to give colorless needles, m.p. 75°-76°; (Found: C, 75.0; H, 6.26. Calc. for C16H16O3 : C, 75.0; H, 6.29%); pmr spectrum: δ1.63, 6H, S; 4.12, 1H, S; δ5.81, 2H, S; δ6.33, 1H, S; δ6.98, 1H, S; δ6.31, 5H, S.

reactant | sesamol | 44 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | α,α-dimethylbenzyl alcohol | 44 g | CC(C1=CC=CC=C1)(C)O | C9H12O
reactant | oxalic acid | 3 g | C(C(=O)O)(=O)O | C2H2O4
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | (α,α-Dimethylbenzyl)-3,4-methylenedioxy-6-methoxybenzene | CC(C1=CC=CC=C1)(C)C1=CC2=C(C=C1OC)OCO2 | C17H18O3
